US08685969B2
5. 4-(2-Fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a yellow, homogeneous solution of ethyl 4-(2-fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylate (0.0592 g, 0.132 mmol) in THF (2.84 mL) and MeOH (0.945 mL) was added LiOH (0.022 g, 0.529 mmol) in water (0.5 mL). After 2 hr, the reaction mixture was concentrated in vacuo, and the residue was diluted with water and acidified with 1N aq. HCl to pH ˜4 by litmus paper. The mixture was extracted with EtOAc (3×), and the organic layers were combined, dried over Na2SO4, and concentrated in vacuo to give the desired product (0.0382 g, 0.091 mmol, 68.8% yield) as a yellow solid.

reactant | ethyl 4-(2-fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.132 mmol, 0.0592 g | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)C(=O)N2CCOCC2)C(=O)OCC | C25H22FN3O4
reactant | LiOH | 0.529 mmol, 0.022 g | [Li+].[OH-]
solvent | THF | 2.84 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.945 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 4-(2-Fluorophenyl)-7-(morpholine-4-carbonyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.091 mmol, 0.0382 g, 68.8% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)C(=O)N2CCOCC2)C(=O)O | C23H18FN3O4
